US04810713
α,α-Bis(4-fluorophenyl)-1-(phenylsulfonyl)-4-piperidinemethanol
To a suspension of 33.78 g (1.39 mole) of magnesium trimmings in 1 liter of tetrahydrofuran (dried over molecular sieves 5A) under an atmosphere of N2 and cooled in an ice bath was added dropwise a solution of 243.25 g (1.39 mole) of p-bromofluorobenzene in 150 ml of tetrahydrofuran. The mixture was stirred for 2 hr after the addition was completed. To this mixture was added 103 g (0.346 mole) of 1-(phenylsulfonyl)-4-piperidinecarboxylic acid ethyl ester as a solid, and the solution was stirred at ambient temperature for 5 hr. The reaction was poured into an icy aqueous solution of ammonium chloride. The phases were separated, and the solvent was removed in vacuo from the organic phase. The residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate and was reduced in vacuo to ≅1 liter volume. The title compound was obtained by adding hexane and cooling, recrystallizing the precipitate from ethyl acetate and hexane and drying the solid under high vacuum at 130° C. for 45 min. at which time the product had partially melted, m.p. 142.5°-144° C.

reactant | magnesium | 1.39 mole, 33.78 g | [Mg] | Mg
reactant | p-bromofluorobenzene | 1.39 mole, 243.25 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 1-(phenylsulfonyl)-4-piperidinecarboxylic acid ethyl ester | 0.346 mole, 103 g | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C14H19NO4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | α,α-Bis(4-fluorophenyl)-1-(phenylsulfonyl)-4-piperidinemethanol | FC1=CC=C(C=C1)C(O)(C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F | C24H23F2NO3S
